US03976471
Preparation of N-Methylene-2,6-diethylaniline
2,6-Diethylaniline (149.2 grams; 1.0 mole), paraformaldehyde (40 grams), a 25% solution of trimethylamine (1.7 grams) and heptane were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser connected to a Dean-Stark trap. The reaction mixture was heated and the water formed removed by azeotropic distillation. When no more water could be removed, the reaction mixture was stripped of solvent and distilled to yield the desired product N-methylene-2,6-diethylaniline as a colorless oil having a boiling point of 65°C.

reactant | 2,6-Diethylaniline | 1.0 mole, 149.2 grams | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | paraformaldehyde | 40 grams | C=O | CH2O
reactant | trimethylamine | 1.7 grams | CN(C)C | C3H9N
reactant | heptane | CCCCCCC | C7H16
solvent | water | O | H2O
product | N-methylene-2,6-diethylaniline | C=NC1=C(C=CC=C1CC)CC | C11H15N
